US07871998B2
tert-Butyl {4-[(2R,3R)-1-(4-fluorophenyl)-3-({[2-(4-methoxyphenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)-4-oxoazetidin-2-yl]phenoxy}acetate
tert-Butyl (4-{(1S,2R)-1-[(4-fluorophenyl)amino]-2-({[2-(4-methoxyphenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)-3-oxo-3-[(4S)-2-oxo-4-phenyl-1,3-oxazolidin-3-yl]propyl}phenoxy)acetate (2.0 g, 2.5 mmol) was dissolved in dry toluene (200 ml) and heated to 90° C. under inert atmosphere. N,O-Bis(trimethylsilyl)acetamide (BSA, 1.8 ml, 7.5 mmol) was added and the mixture was stirred at 90° C. for one hour. The mixture was cooled to 45° C. and tetrabutylammonium fluoride (TBAF, 150 mg) was added and the mixture was stirred at 45° C. for two hours. The mixture was concentrated under reduced pressure and filtered through a short column of silica (hexane:EtOAc 4:1). Purification of the crude oil by flash-chromatography (hexane:EtOAc 5:1) gave 0.65 g (41%) of the title compound as a yellow solid. 1H-NMR (CDCl3, 200 MHz): δ 0.6 (s, 3H), 1.3 (s, 3H), 1.5 (s, 9H), 3.0-3.2 (m, 2H), 3.3-3.5 (m, 4H), 3.8 (s, 3H), 4.0 (d, 1H), 4.5 (s, 2H), 4.8 (d, 1H), 6.8-7.0 (m, 6H), 7.2-7.4 (m, 6H).

reactant | tert-Butyl (4-{(1S,2R)-1-[(4-fluorophenyl)amino]-2-({[2-(4-methoxyphenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)-3-oxo-3-[(4S)-2-oxo-4-phenyl-1,3-oxazolidin-3-yl]propyl}phenoxy)acetate | 2.5 mmol, 2.0 g | FC1=CC=C(C=C1)N[C@H]([C@H](C(N1C(OC[C@@H]1C1=CC=CC=C1)=O)=O)SCC1(OCC(CO1)(C)C)C1=CC=C(C=C1)OC)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C44H49FN2O9S
reactant | N,O-Bis(trimethylsilyl)acetamide | 7.5 mmol, 1.8 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | tetrabutylammonium fluoride | 150 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl {4-[(2R,3R)-1-(4-fluorophenyl)-3-({[2-(4-methoxyphenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)-4-oxoazetidin-2-yl]phenoxy}acetate | 0.65 g, 41% | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC1(OCC(CO1)(C)C)C1=CC=C(C=C1)OC)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C35H40FNO7S
